* HP Memristor SPICE Model Using Biolek Window

* Connections:
* TE:  Top electrode
* BE:  Bottom electrode
* XSV: External connection to plot state variable
*      that is not used otherwise

.SUBCKT diffusive_biolek TE BE XSV

* Ron:  Minimum device resistance
* Roff: Maximum device resistance
* D:    Width of the thin film
* uv:   Dopant mobility
* p:    Parameter for window function
* x0:   State varaible initial value
* tau:  Time constant variable

.params Ron=1K Roff=500k x0=0 D=3.5N uv=5p p=3 tau=5m

* Biolek Window Function
.func f(V1,I1)={1-pow((V1-stp(-I1)),(2*p))}

* Memristor I-V Relationship
.func IVRel(V1,V2) = V1/(Ron*V2 + Roff*(1-V2))

* Circuit to determine state variable
Gx 0 XSV value={abs(I(Gmem))*Ron*uv*f(V(XSV,0),abs(I(Gmem)))/pow(D,2)-V(XSV,0)/tau}
Cx XSV 0 {1}
.ic V(XSV) = x0

* Current source representing memristor
Gmem TE BE value={IVRel(V(TE,BE),V(XSV,0))}

.ENDS diffusive_biolek
